US07868014B2
Add sodium borohydride (76 mg, 2.0 mmol) to methyl 4,5-dichloroisothiazole-3-carboxylate (212 mg, 1.0 mmol) in ethanol (10 mL) at room temperature and stir overnight. Add water, extract with dichloromethane three times. Combine the organic layers and wash with saturated aqueous sodium chloride, dry (magnesium sulfate) and concentrate to give (4,5-dichloroisothiazol-3-yl)-methanol as a white solid (141 mg, 77%). 1H NMR (400 MHz, MeOH-d4) 4.66 (s, 2H).

reactant | sodium borohydride | 2.0 mmol, 76 mg | [BH4-].[Na+]
reactant | methyl 4,5-dichloroisothiazole-3-carboxylate | 1.0 mmol, 212 mg | ClC=1C(=NSC1Cl)C(=O)OC | C5H3Cl2NO2S
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | (4,5-dichloroisothiazol-3-yl)-methanol | 141 mg, 77% | ClC=1C(=NSC1Cl)CO | C4H3Cl2NOS
